Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Codeine / Bactrim
 
Attending: ___.
 
Chief Complaint:
 Weakness, nausea/vomiting  

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ yo f with h/o recently diagnosed metastatic cancer 
of unknown prior presenting with nausea, vomiting, and fever to 
101 today. Patient has been vomiting over the past 6 - 8 weeks, 
since before she was diagnosed with metastatic cancer. She also 
reports pain over her upper abdomen and has very poor PO intake. 
She has been feeling progressively weak over this time period. 
Her vomiting and abdominal pain has not increased from the past 
weeks, but she just feels more fatigued. She has a chronic 
non-productive cough as well. No URI symptoms, no urinary 
complaints. She has been constipated, which improves when she 
stops her anti-emetics. Last bowel movement was yesterday. She 
is passing gas. She has lower extremity edema, which has been 
present for the past several weeks.  
Of note, she was supposed to have one of her liver mets biopsied 
in the past several weeks, but she was taking ibuprofen so the 
biopsy had to be postponed.  
 
In the ED, initial VS were: 97.6 117 128/74 18 95% RA. Labs were 
significant for WBC of 18.7, with 77% polys. UA was significant 
for ketones. Patient received zofran, NS. She had a CXR that 
showed new left sided opacity that may reflect PNA superimposed 
on metastatic diseae vs. lymphangiitic spread of cancer. She 
received vanc and cefepime for pneumonia. Vitals on transfer 
are: 99.6 110 118/78 20 99%.  
Currently, she continues to feel weak and nauseous. She is 
trying to take her pants off, but feels too weak and tired to do 
so.  
REVIEW OF SYSTEMS:  
(+) per HPI  
(-) night sweats, headache, vision changes, rhinorrhea, 
congestion, sore throat, BRBPR, melena, hematochezia, dysuria, 
hematuria.  
 

 
Past Medical History:
PMH: 
# high grade SBO ___ s/p exploratory laparotomy, lysis of 
adhesions, and small bowel resection with enteroenterostomy 
# carcinoid
# hyperlipidemia
# vitamin B12 deficiency
# cervical DJD
# osteoarthritis 

PSH: 
s/p R lung resection in ___ at ___
s/p hysterectomy in ___
s/p R arm surgery

 
Social History:
___
Family History:
Mother - ___ cancer d. at ___  
Youngest of ___ - not in touch with siblings  
Father - ___ d. at ___  

 
Physical Exam:
Admission Physical Exam: 
VS: 98.6, 130/80, 111, 24, 98% on RA  
GENERAL: Obese woman, appears comfortable, in no acute distress  

HEENT: PERRLA, EOMI, sclerae anicteric, slightly dry mucus 
membranes  
NECK: supple, obese  
LUNGS: Distant breath sounds, decreased on the right, few 
crackles b/l  
HEART: RRR, no MRG, nl S1-S2  
ABDOMEN: + bowel sounds, soft, epigastric and RUQ tenderness to 
palpation, markedly enlarged liver, with liver edge palpable 5 
cm below rib cage. No rebound/guarding.  
EXTREMITIES: 2+ lower extremity edema, 2+ pulses radial and dp  
NEURO: awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout  

Discharge Physical Exam:
Vitals-  Tm 99.8 BP 125/76 HR 105 RR 20 99RA
General- Alert, oriented, no acute distress, obese appearing 
woman  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally with decreased breath 
sound on left posterior basilar lung field, no wheezes, rales, 
ronchi  
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, obese, diffusely tender, non-distended, bowel 
sounds present, no rebound tenderness or guarding, no 
organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis, 2+ 
pitting edema  
Neuro- CNs2-12 intact, motor function grossly normal  
Labs: Reviewed, please see below.  

 
Pertinent Results:
ADMIT LABS:

___ 04:35PM BLOOD WBC-18.7*# RBC-3.49* Hgb-9.2* Hct-31.2* 
MCV-90 MCH-26.5* MCHC-29.6* RDW-18.6* Plt ___
___ 04:35PM BLOOD Neuts-77.4* Lymphs-14.9* Monos-6.8 
Eos-0.5 Baso-0.4
___ 04:35PM BLOOD Plt ___
___ 04:35PM BLOOD Glucose-90 UreaN-8 Creat-0.5 Na-139 K-3.5 
Cl-99 HCO3-29 AnGap-15
___ 04:35PM BLOOD ALT-12 AST-48* AlkPhos-328* TotBili-0.9
___ 07:45AM BLOOD Calcium-8.4 Phos-2.5*# Mg-2.0
___ 04:35PM BLOOD Albumin-2.8*
___ 06:42PM BLOOD Lactate-2.0

DISCHARGE  LABS:

___ 06:05AM BLOOD WBC-16.8* RBC-3.20* Hgb-8.3* Hct-28.7* 
MCV-90 MCH-25.9* MCHC-28.9* RDW-18.1* Plt ___
___ 06:05AM BLOOD Glucose-87 UreaN-10 Creat-0.4 Na-136 
K-3.7 Cl-99 HCO3-27 AnGap-14
___ 06:05AM BLOOD ALT-11 AST-45* LD(LDH)-517* AlkPhos-282* 
TotBili-0.8
___ 06:05AM BLOOD Calcium-8.4 Phos-2.7 Mg-2.2

IMAGING: ___
Final Report 
HISTORY:  New diagnosis of metastatic cancer with unknown 
primary.  Assess for extent of lesions.   
COMPARISON:  CT abdomen and pelvis dated ___.  
TECHNIQUE:  Multidetector CT of the torso was performed with 
intravenous and oral contrast.  Coronal and sagittal 
reformations were provided.  Images are substantially degraded 
due to the patient's body habitus.   
FINDINGS: 
CHEST:  
There are innumerable pulmonary nodules, which have an upper 
lobe 
predilection, particularly in the left upper lobe.  The largest 
nodule 
measures 6 mm in diameter (sequence 3 image 8).  Calcification 
is noted within  the right pleural cavity (sequence 3 image 24), 
which is likely related to the patient's history of previous 
right lung surgery.  No pleural effusion.  No pneumothorax.  
No significant mediastinal, axillary or hilar adenopathy.  
Cardiac size is 
normal.  No pericardial effusion.  
ABDOMEN:  
The liver is enlarged and there are innumerable ___ density 
lesions throughout both lobes of the liver which are replacing 
the vast majority of the hepatic parenchyma.  The portal vein is 
patent.  No intra or extrahepatic duct dilatation.  The 
gallbladder is unremarkable.  There is a small amount of ascites 
adjacent to the right lobe of the liver.   
  
The right kidney is mildly compressed anteriorly due to the 
enlarged liver. There is a subcentimeter ___ density lesion in 
the upper pole of the right kidney, likely representing a 
subcentimeter cyst (sequence 5 image 31).  The right kidney is 
otherwise unremarkable.  The left kidney is within normal 
limits.  The adrenals and spleen are unremarkable.  The pancreas 
is within normal limits.  The small and large bowel are 
unremarkable.  No retroperitoneal or mesenteric adenopathy.  
  
PELVIS:  
The images of the pelvis are substantially degraded secondary to 
the patient's body habitus.  No pelvic masses are identified.  
The bladder is unremarkable.  The patient is status post 
supracervical hysterectomy.  No pelvic adenopathy. No free fluid 
within the pelvis.  
  
OSSEOUS STRUCTURES:  
Bilateral symmetrical sclerosis is identified on the iliac side 
of the 
sacroiliac joints, consistent with osteitis condensans ilii.  
There is severe degenerative change within the right hip joint 
with joint space loss and osteophyte formation.  No destructive 
osseous lesions.   
  
IMPRESSION: 
Multiple pulmonary and hepatic metastases.  No separate primary 
lesion 
identified.   

 
Brief Hospital Course:
___ yo f with h/o recently diagnosed metastatic cancer of unknown 
primary presenting with nausea, vomiting, and fever to 101 on 
day of admission.  
.
# Fever/leukocytosis: Patient presented with fever and 
leukocytosis, which was initially concerning for post 
obstructive PNA. Patient was treated with vanc-cefepime-azithro 
for a day and a half, however CT torso was concerning for 
ongoing malignancy without evidence of primary tumor. There was 
no concern for a pneumonia. Consequently, abx were stopped on 
___. Patient felt weak and unable to go home, as she lives 
alone and so was screened by physical therapy and discharged to 
rehab facility. 
.
# Failure to thrive: Patient presents with 6 weeks of nausea, 
vomiting and poor PO intake likely from her enlarged liver. She 
continues to have bowel movements and pass gas. Patient now with 
albumin of 2.8, ketones in her urine, weight loss and new 
peripheral edema, concerning for poor nutrition/starvation 
ketosis. Nutrition consult followed the patient throughout her 
hospital stay and recommended ___ fat Carnation Instant 
Breakfast with Beneprotein.
.
# Chronic back pain:  Patient was continued on her home 
gabapentin. 
.
# Depression:  Patient was continued on home bupropion, 
sertraline  
.
# HCTZ: Patient's hctz was discontinued during her 
hospitalization due to poor PO intake and concern for 
dehydration. Blood pressures were well-controlled such that HCTZ 
was not deemed necessary. This issue should be readdressed by 
PCP.
.
# Hyperlipidemia: Given patient's metastatic process, statin was 
discontinued during hospitalization to simplify her medical 
regimen.  
.
# Insomnia: Continued home trazodone  
.
TRANSITION ISSUES
# CODE: FULL (Confirmed)  
# CONTACT: ___ (friend) ___  
# HCTZ discontinued on admission- consider restarting if 
considered medically necessary by PCP 
# ___ fat Carnation Instant Breakfast with Beneprotein with 
meals
# Follow up with oncology for further diagnosis and management 
of malignancy
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB 
2. BuPROPion 150 mg PO DAILY 
3. Gabapentin 300 mg PO HS 
4. Sertraline 200 mg PO DAILY 
5. Simvastatin 40 mg PO DAILY 
6. traZODONE 100 mg PO HS:PRN sleep 
7. Ibuprofen 800 mg PO Q12H:PRN pain 
8. Hydrochlorothiazide 12.5 mg PO DAILY 
9. Ondansetron 4 mg PO Q8H:PRN nausea 

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB 
2. BuPROPion 150 mg PO DAILY 
3. Gabapentin 300 mg PO HS 
4. Sertraline 200 mg PO DAILY 
5. traZODONE 100 mg PO HS:PRN sleep 
6. Ondansetron 4 mg PO Q8H:PRN nausea 
7. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
8. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
please hold for sedation, RR<10 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours Disp #*30 
Tablet Refills:*0
9. Enoxaparin Sodium 40 mg SC DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Metastatic disease of unknown primary: Weakness and nausea 
likely from tumor burden

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for evaluation of several weeks of 
weakness and nausea. You had some markers of infection, so you 
were initially given antibiotics. However, a scan of your torso 
showed metastatic disease from a cancer of unknown origin in 
your liver and lungs. Your weakness and nausea are most likely 
due to your enlarged liver. 

You are scheduled to see your oncologist this week, so please 
follow-up with them so that they may proceed with the further 
diagnosis and treatment of your malignancy.

You are being discharged to a rehabilitation facility to help 
you regain some strength before going home. Your anticipated 
length of stay is LESS THAN 30 DAYS. 

Please see the attached sheet for your updated medication list. 

It was a pleasure taking care of you in the hospital. We wish 
you all the best.
 
Followup Instructions:
___